US07345067B2
13.10) (2-(3-Methoxy-propyl)-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid
0.280 g (0.52 mmol) of the above prepared (2-(3-methoxy-propyl)-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester was dissolved in 3.3 ml of THF/EtOH=1/1, treated with 1.56 ml (3 eq.) of 1N NaOH, and kept at ambient temperature for 0.5 h. The reaction mixture was then poured onto crashed ice/HCl dil., extracted twice with EtOAc, the organic layer washed with water and brine, dried over sodium sulfate, and evaporated to dryness. Crystallization from hexane/EtOAc afforded finally 0.209 g of the title compound as off-white crystals of mp. 142-143° C., MS: 507.5 (M-H)−.

reactant | (2-(3-methoxy-propyl)-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)CCCOC)=O | C27H31F3N2O4S
reactant | NaOH | 1N, 1.56 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 3.3 ml | C1CCOC1.CCO
product | (2-(3-Methoxy-propyl)-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid | 0.209 g | COCCCC1=C(OCC(=O)O)C=CC(=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C | C25H27F3N2O4S
